US07326732B2
(i) 6-(4-Fluoro-phenyl)-pyridine-2-carboxylic acid (152)
6-Bromo-pyridine-2-carboxylic acid (1 g, 4.95 mmol) was coupled 4-fluoro-phenylboronic acid (693 mg, 4.95 mmol) acid using Method F to give the title compound.

reactant | 6-Bromo-pyridine-2-carboxylic acid | 4.95 mmol, 1 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 4-fluoro-phenylboronic acid | 4.95 mmol, 693 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 6-(4-Fluoro-phenyl)-pyridine-2-carboxylic acid | FC1=CC=C(C=C1)C1=CC=CC(=N1)C(=O)O | C12H8FNO2
